US05710139
To a solution of 2,3-dimethylquinoline (0.50 g, 3.2 mmol) in carbon tetrachloride (40 ml) benzoyl peroxide (100 mg) and N-bromosuccinimide (1.14 g, 6.4 mmol) were added. The reaction mixture was refluxed for 4 hours, and then cooled to room temperature. The precipitate was removed by filtration and the filtrate was evaporated in vacuo. The residue was flash chromatographed on silica gel with ethyl acetate/petroleum ether as the eluent to give 0.25 g of 3-bromomethyl-2-methylquinoline.

reactant | 2,3-dimethylquinoline | 3.2 mmol, 0.50 g | CC1=NC2=CC=CC=C2C=C1C | C11H11N
reactant | N-bromosuccinimide | 6.4 mmol, 1.14 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 40 ml, 100 mg | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-bromomethyl-2-methylquinoline | 0.25 g | BrCC=1C(=NC2=CC=CC=C2C1)C | C11H10BrN
